US04061761
3-Ethyl-2-ethylimino-4-(4-chloro-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide
To 6.2 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone 2.2 g of ground 1,3-diethyl-thiourea were added in 40 ml of methanol, the mixture was stirred for 10 minutes at 40° C and for 3 hours at room temperature and the salt was precipitated by adding diethyl ether. After decanting the solvent, the oily product was crystallized with diisopropyl ether heated to 30°-40° C. Colorless crystals melting at 203° C (decomposition).

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 6.2 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1,3-diethyl-thiourea | C(C)NC(=S)NCC | C5H12N2S
solvent | methanol | 40 ml | CO | CH4O
product | 3-Ethyl-2-ethylimino-4-(4-chloro-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=NCC | InChI=1S/C13H18ClN3O3S2.BrH/c1-3-16-12-17(4-2)13(18,8-21-12)9-5-6-10(14)11(7-9)22(15,19)20;/h5-7,18H,3-4,8H2,1-2H3,(H2,15,19,20);1H
